US04332813
Preparation of N-benzylidene histidine methyl ester (2·I)
Histidine methyl ester, 185 mg (1 mmole), is treated with 1.06 g (1 mmole) of benzaldehyde in 25 ml of CHCl3 for 3 hours. MgSO4, 0.2 g, is added for the last hour. The mixture is filtered and the solvent is evaporated, to leaving compound 2·I as a residue.

reactant | Histidine methyl ester | COC([C@@H](N)CC1=CNC=N1)=O | C7H11N3O2
reactant | benzaldehyde | 1 mmole, 1.06 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | MgSO4 | [O-]S(=O)(=O)[O-].[Mg+2]
solvent | CHCl3 | 25 ml | C(Cl)(Cl)Cl | CHCl3
product | N-benzylidene histidine methyl ester | COC([C@@H](N=CC1=CC=CC=C1)CC1=CNC=N1)=O | C14H15N3O2
